US04935437
A mixture of 2,2'-[5-bromocyanomethyl-1,3-phenylene]di(2-methylpropiononitrile) (0.33 g), 1,2,4-triazole (0.34 g) and dimethylformamide (2 ml) was stirred at 50° for 24 h. The mixture was treated with water (20 ml), and extracted with ethyl acetate, and the extract was dried and evaporated to dryness under reduced pressure. The residue was purified by flash chromatography, using methanol (3% by volume) in dichloromethane as eluant, to give 2,2'-[5-cyano(1H-1,2,4-triazol-1-yl)methyl-1,3-phenylene]di(2-methylpropiono-nitrile), characterised as the hydrochloride salt, mp 148°-151°.

reactant | 2,2'-[5-bromocyanomethyl-1,3-phenylene]di(2-methylpropiononitrile) | 0.33 g | BrC=1C=C(C(=C(C1)C(C#N)(C)C)CC#N)C(C#N)(C)C | C16H16BrN3
reactant | 1,2,4-triazole | 0.34 g | N1N=CN=C1 | C2H3N3
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2,2'-[5-cyano(1H-1,2,4-triazol-1-yl)methyl-1,3-phenylene]di(2-methylpropiono-nitrile) | C(#N)C=1C=C(C(=C(C1)C(C#N)(C)C)CN1N=CN=C1)C(C#N)(C)C | C18H18N6
